US07429605B2
104 mg (0.09 mmol)Pd(PPh3)4, 1.5 g (6.29 mmol) of 3-chlorophenylboronic acid pinacol ester 2.86 ml (8.58 mmol) and 3M cesium carbonate solution were added under argon at room temperature to a solution of 1.24 g (5.72 mmol) methyl-5-bromo-pyridine-3-carboxylate in 45 ml dimethoxyethane and the mixture was heated to reflux for 30 min. The reaction mixture was cooled to room temperature and evaporated. The residue was taken up with ethyl acetate, washed with water, dried over sodium sulphate and evaporated. Chromatography on silica (eluent: ethyl acetate/n-heptane 1:3) gave 1.14 g (72%) of 5-(3-Chloro-phenyl)-nicotinic acid methyl ester

reactant | 3-chlorophenylboronic acid pinacol ester | 6.29 mmol, 2.86 ml, 1.5 g | ClC=1C=C(C=CC1)B1OC(C)(C)C(C)(C)O1 | C12H16BClO2
reactant | cesium carbonate | 3M | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | methyl-5-bromo-pyridine-3-carboxylate | 5.72 mmol, 1.24 g | COC(=O)C=1C=NC=C(C1)Br | C7H6BrNO2
solvent | dimethoxyethane | 45 ml | C(OC)COC | C4H10O2
catalyst | Pd(PPh3)4 | 0.09 mmol, 104 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-Chloro-phenyl)-nicotinic acid methyl ester | 1.14 g, 72% | COC(C1=CN=CC(=C1)C1=CC(=CC=C1)Cl)=O | C13H10ClNO2
